Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
low fluid
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ yo G6P1 at 28+5 WGA who is being
admitted with idiopathic oligohydramnios with AFI 3.2. On ___,
she presented with DFM and was found to have a low normal AFI of
~6. She was therefore referred to OB Triage,where she received a
repeat U/S which showed AFI of 7, normal growth (43%ile) and AGA
NST, so she was discharged home. ON ___ up US showed an
AFI of 6.2.  She received BMZ on ___ and ___. 

On ___, she had a very small episode of LOF; SSE showed neg
pool, nitrazine, and ferning.  

Today, her AFI had further decreased to 3.4, and she continues 
to
have poor perception of fetal movement, prompting admission to
facilitate fetal monitoring.  She denies abdominal
pain/ctxns/vaginal bleeding, any new LOF, fever, recent
illnesses. Her only sick contact is her ___ old daughter,
who has a cough. No recent medication exposures. 

ROS: No change in urine output, but notes increased thirst and
dry mouth over the past week. Received flu shot last week. 
Denies
SOB, chest pain. Denies N/V. Denies pedal edema but notes that
she has gone up half a shoe size. 
 

 
Past Medical History:
PNC:      1)Dating: EDC ___ by early U/S c/w LMP
          2)Routine testing: B+, antibody neg, RPR NR, rubella
immune, HbsAg NR, HIV neg;  CF mutation positive, FOB neg.  
          3)DS risk 1:280 (age related: 1:270); normal female
karyotype on amnio. 
          4) beta-complete on: ___

OB Hx: 
___ 39 wk PLTCS secondary to hx uterine septum removal, 
TAB x2, 
Sab x1 with D&C, 
___ ruptured tubal ectopic after MTX treatment with laproscopic
R salpingectomy

Gyn Hx: ___ hysteroscopic uterine septum resected

PMH: h/o bulimia, remote h/o ETOH abuse and sober x ___

Surg Hx: D&C, laproscopic R salpingectomy

Social Hx: ___
Family History:
NC
NC
 
Physical Exam:
VS: T: 98.2, HR: 101. BP: 124/69, RR:18 Sa: 100
Gen: NAD
SVE: deferred
CV: RRR, normal S1,S2, no murmurs, rubs, gallops
LUNGS: CTAB     
ABD: soft, gravid, ND/NT
EXTREMITIES: No edema, no calf tenderness
FHT: 145, mod var, 10 x 10 accels, variable decel x 1
Toco: flat 

 
Pertinent Results:
___ 05:07PM   CREAT-0.5
___ 05:07PM   estGFR-Using this
___ 05:07PM   ALT(SGPT)-23 AST(SGOT)-15
___ 05:07PM   URIC ACID-2.0*
___ 05:07PM URINE  HOURS-RANDOM CREAT-32 TOT PROT-<6
___ 05:07PM   WBC-16.1*# RBC-3.98* HGB-12.4 HCT-35.6* 
MCV-89 MCH-31.2 MCHC-34.9 RDW-14.3
___ 05:07PM   PLT COUNT-218
___ 05:07PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:07PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-150 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG

 
Brief Hospital Course:
Pt admitted to the antepartum service. NST was reactive and AGA. 
She was seen by ___ with the following impressions/plan:

___ is a ___ yo G6P1 at 29 weeks with oligohydramnios
- Discussion about the causes of oligohydramnios was done and
considering her normal anatomy survey, normal amniocentesis
results probable causes might be infectious origin,
uteroplacental insufficiency, idiopathic, undiagnosed genetic
disorders.
- We recommend biweekly BPP and NST's
- We recommend pelvic rest and hydration
- In the absence of abnormal fetal testing or IUGR, delivery at
32-34 weeks is advisable.

She was also seen by NICU. 

Given above reassuring testing and MFM consult the pt was 
discharged home with close outpatient monitoring

 
Medications on Admission:
PNV
 
Discharge Medications:
PNV
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
oligohydramnios

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation secondary to oligohydramnios 
(low amniotic fluid).  You had reassuring fetal testing.  You 
will need to have twice weekly ultrasounds (biophysical 
profiles) and NSTs.  Your doctors office ___ contact you with 
these appointment dates/ times.

Continue to drink plenty of fluids.  Call your doctor if you 
have any vaginal bleeding, loss of fluid, decreased fetal 
movement.
 
Followup Instructions:
___